US05852023
Ethyl [4-(cis-4-tert-butylcyclohexylamino)pyrimidin-6-yl]acetate
1.80 g (9 mmol) of ethyl (4-chloropyrimidin-6-yl)acetate, 1.40 g (9 mmol) of cis-4-tert-butylcyclohexylamine and 1.82 g (18 mmol) of triethylamine were heated at 80° to 90° C. for 8 hours. After cooling, the mixture was taken up in water/toluene and the organic phase was dried and concentrated. Purification was carried out by chromatography on silica gel (ethyl acetate) to give 1.85 g (64.4% of theory) of a colorless resin.

reactant | ethyl (4-chloropyrimidin-6-yl)acetate | 9 mmol, 1.80 g | ClC1=NC=NC(=C1)CC(=O)OCC | C8H9ClN2O2
reactant | cis-4-tert-butylcyclohexylamine | 9 mmol, 1.40 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)N | C10H21N
reactant | triethylamine | 18 mmol, 1.82 g | C(C)N(CC)CC | C6H15N
solvent | water toluene | O.C1(=CC=CC=C1)C
product | Ethyl [4-(cis-4-tert-butylcyclohexylamino)pyrimidin-6-yl]acetate | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1)CC(=O)OCC | C18H29N3O2
